US08791288B2
Synthesis of 6-methyl-6-spiro[4.5]decyl methacrylate (Monomer 1)
With stirring under nitrogen atmosphere at room temperature, a mixture of 100 g of spiro[4.5]decan-6-one (which had been synthesized from cyclohexanone by a method as described in A. P. Krapcho, Synthesis, 1974, p 383 and references cited therein) and 200 ml of tetrahydrofuran was added dropwise to a tetrahydrofuran solution of 1.28 mol methylmagnesium chloride (which had been prepared from 31.1 g of metallic magnesium, 400 ml of tetrahydrofuran and chloromethane), during which time the temperature was kept below 60° C. The reaction mixture was refluxed for 30 minutes, after which a saturated ammonium chloride aqueous solution was added to stop the reaction. Through ordinary work-up of extraction, washing and drying, and subsequent vacuum distillation, there was obtained 93.3 g (yield 87%) of the target compound, 6-methylspiro[4.5]decan-6-ol.

reactant | spiro[4.5]decan-6-one | 100 g | C1CCCC12C(CCCC2)=O | C10H16O
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | methylmagnesium chloride | 1.28 mol, 400 ml, 31.1 g | C[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 6-methylspiro[4.5]decan-6-ol | CC1(C2(CCCC2)CCCC1)O | C11H20O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 6-methyl-6-spiro[4.5]decyl methacrylate | 93.3 g, yield 87% | C(C(=C)C)(=O)OC1(C2(CCCC2)CCCC1)C | C15H24O2
